US07547710B2
To a solution of {[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}acetic acid (0.48 g, 1.0 mmol) in N,N-dimethylformamide (10 ml) were added 1-ethyl-3(3-dimethylaminopropyl)carbodiimide hydrochloride (0.23 g, 1.2 mmol), 1-hydroxy-1H-benzotriazole (0.16 g, 1.2 mmol) and 1.0 M solution of methylamine in tetrahydrofuran (2 ml) and the mixture was stirred at room temperature for 12 hrs. Water was added to the reaction mixture and the mixture was extracted with ethyl acetate. The extract was washed with 1N hydrochloric acid and saturated brine, and dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give tert-butyl {[2-isobutyl-6-[2-(methylamino)-2-oxoethoxy]-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate (0.27 g, yield 55%) as pale-yellow crystals.

reactant | {[3-{[(tert-butoxycarbonyl)amino]methyl}-2-isobutyl-4-(4-methylphenyl)quinolin-6-yl]oxy}acetic acid | 1.0 mmol, 0.48 g | C(C)(C)(C)OC(=O)NCC=1C(=NC2=CC=C(C=C2C1C1=CC=C(C=C1)C)OCC(=O)O)CC(C)C | C28H34N2O5
reactant | 1-ethyl-3(3-dimethylaminopropyl)carbodiimide hydrochloride | 1.2 mmol, 0.23 g | Cl.C(C)N=C=NCCCN(C)C
reactant | 1-hydroxy-1H-benzotriazole | 1.2 mmol, 0.16 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | methylamine | CN | CH5N
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | Water | O | H2O
product | tert-butyl {[2-isobutyl-6-[2-(methylamino)-2-oxoethoxy]-4-(4-methylphenyl)quinolin-3-yl]methyl}carbamate | 0.27 g, yield 55% | C(C(C)C)C1=NC2=CC=C(C=C2C(=C1CNC(OC(C)(C)C)=O)C1=CC=C(C=C1)C)OCC(=O)NC | C29H37N3O4
